3
R0100 1 0 1
G0001 0 1 2 0 0 0 0.5
G0001 0 1 3 0 0 0 0.5
G0001 0 1 3 2 0 0 -0.5
V0200 2 0 SIN 0 1 3000 0 0 0 15
V0300 3 0 SIN 0 1 200 0 0 0 5
.TRAN 5E-3 5E-6 BE 1
